US09062032B2
A mixture of 100 mg of methyl {[(4-nitrophenoxy)carbonyl]oxy}acetate and 5.0 mL of THF was added to a mixture of 180 mg of methyl 4-[2-(4-{[(2-{[3-({[2-(methylamino)ethyl](pentan-3-yl)amino}methyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate, 0.15 mL of N-ethyl-N-isopropylpropan-2-amine, and 5.0 mL of THF under ice cooling, followed by stirring for 3 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and ethyl acetate and a saturated aqueous sodium hydrogen carbonate solution were added to the residue, followed by extraction with ethyl acetate. The organic layer was washed sequentially with a saturated aqueous sodium hydrogen carbonate solution, water, and saturated brine and dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane:chloroform=4:6), thereby obtaining 204 mg of methyl 4-{2-[4-({[2-({3-[7-methyl-3,6-dioxo-10-(pentan-3-yl)-2,5-dioxa-7,10-diazaundecan-11-yl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate.

reactant | methyl {[(4-nitrophenoxy)carbonyl]oxy}acetate | 100 mg | [N+](=O)([O-])C1=CC=C(OC(=O)OCC(=O)OC)C=C1 | C10H9NO7
reactant | methyl 4-[2-(4-{[(2-{[3-({[2-(methylamino)ethyl](pentan-3-yl)amino}methyl)benzoyl]amino}-4,5,6,7-tetrahydro-1-benzothiophen-3-yl)carbonyl]amino}phenyl)ethyl]benzoate | 180 mg | CNCCN(C(CC)CC)CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1 | C41H50N4O4S
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.15 mL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | methyl 4-{2-[4-({[2-({3-[7-methyl-3,6-dioxo-10-(pentan-3-yl)-2,5-dioxa-7,10-diazaundecan-11-yl]benzoyl}amino)-4,5,6,7-tetrahydro-1-benzothiophen-3-yl]carbonyl}amino)phenyl]ethyl}benzoate | 204 mg | CN(C(OCC(OC)=O)=O)CCN(CC=1C=C(C(=O)NC=2SC3=C(C2C(=O)NC2=CC=C(C=C2)CCC2=CC=C(C(=O)OC)C=C2)CCCC3)C=CC1)C(CC)CC | C45H54N4O8S
